US06544985B2
(RS)-[4-Chloro-5-dimethylamino-2-(3-oxo-3-{3-[4-(tetrahydro-pyran-2-yloxymethyl)-pyrazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester (Example J1) (429 mg, 1.5 mmol) and (RS)-3-oxo-3-{3-[4-(tetrahydro-pyran-2-yloxymethyl)-pyrazol-1-yl]-phenyl}-propionic acid tert.-butyl ester (Example K17) (601 mg, 1.5 mmol) according to the general procedure M. Obtained as a yellow amorphous substance (710 mg).

reactant | (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester | 1.5 mmol, 429 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)N)=O | C13H20ClN3O2
reactant | (RS)-3-oxo-3-{3-[4-(tetrahydro-pyran-2-yloxymethyl)-pyrazol-1-yl]-phenyl}-propionic acid tert.-butyl ester | 1.5 mmol, 601 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CC(=C1)COC1OCCCC1)=O)=O | C22H28N2O5
product | (RS)-[4-Chloro-5-dimethylamino-2-(3-oxo-3-{3-[4-(tetrahydro-pyran-2-yloxymethyl)-pyrazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)NC(CC(C1=CC(=CC=C1)N1N=CC(=C1)COC1OCCCC1)=O)=O)=O | C31H38ClN5O6
